US04592866
(S)-1-Methyl-3-pyrrolidinol-(2S,3S)-tartrate [1:1]
A solution of 25.3 g (0.2 mole) of (S)-3-hydroxy-1-methyl-2,5-pyrrolidinedione in 150 ml of tetrahydrofuran was added dropwise so as to maintain reflux to a stirred solution of 226 g (0.78 mole) of Red-al (bis(methoxyethoxy)sodium aluminum hydride) in 500 ml of tetrahydrofuran. The refluxing was continued 1 hr after addition was complete. The solution was cooled with an ice bath and 30 ml of water was added dropwise followed by 30 ml of 15% sodium hydroxide which was followed by 90 ml of water. The resulting mixture was heated to reflux for 0.5 hr, cooled to 30° C. and the layers separated. The aqueous layer was extracted 5 times with chloroform. The organic layers were combined, dried over sodium sulfate and concentrated. The residue was distilled. Yield of product was 13 g (64%), b.p. 95°-100° C./90 mm. [α]D25 =+0.794 (neat). 1 gram of the liquid was treated with 1.5 g (24,35) tartaric acid in methanol. The resulting crystals weighed 2 g, m.p. 129°-131° C. [α]D25 =-11.5 (water).

reactant | (S)-3-hydroxy-1-methyl-2,5-pyrrolidinedione | 0.2 mole, 25.3 g | O[C@@H]1C(N(C(C1)=O)C)=O | C5H7NO3
reactant | Red-al | 0.78 mole, 226 g | COCCO[AlH2-]OCCOC.[Na+]
reactant | water | 30 ml | O | H2O
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
reactant | water | 90 ml | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | (S)-1-Methyl-3-pyrrolidinol (2S,3S)-tartrate | CN1C[C@H](CC1)O.[C@H]([C@@H](C(=O)[O-])O)(C(=O)[O-])O | InChI=1S/C5H11NO.C4H6O6/c1-6-3-2-5(7)4-6;5-1(3(7)8)2(6)4(9)10/h5,7H,2-4H2,1H3;1-2,5-6H,(H,7,8)(H,9,10)/p-2/t5-;1-,2-/m00/s1
